US04971963
To a solution of 1.50 g of 2,5-dimercapto-1,3,4-thiadiazole and 4.2 ml of triethylamine in 30 ml of DMF was added 1.29 g of α-chloroacetamidine hydrochloride at room temperature under stirring. Further, the mixture was stirred for 2.5 hours at room temperature and concentrated under reduced pressure. The residue was subjected to a column chromatography on silica gel (100 g), eluting with a (4:1) mixture of acetonitrile and water. The pertinent fractions were collected and concentrated under reduced pressure, and the concentrate was subjected to a column chromatography on XAD-II (450 ml) being washed with water, and eluted with 10% aqueous ethanol. After concentrating, the precipitating crystals were filtered to give 755mg of 2-amidinomethylthio-5-mercapto-1,3,4-thiadiazole as colorless crystals, mp: 184°-187° C.

reactant | 2,5-dimercapto-1,3,4-thiadiazole | 1.50 g | SC=1SC(=NN1)S | C2H2N2S3
reactant | triethylamine | 4.2 ml | C(C)N(CC)CC | C6H15N
reactant | α-chloroacetamidine hydrochloride | 1.29 g | Cl.ClCC(=N)N
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 2-amidinomethylthio-5-mercapto-1,3,4-thiadiazole | 755mg | C(N)(=N)CSC=1SC(=NN1)S | C4H6N4S3
